US08623889B2
Step 3: 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinic acid
To a mixture of methyl 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinate (189 mg; 0.6444 mmol) and tetrahydrofuran (4.0 mL; 49 mmol) was added lithium hydroxide (2.0 mL; 2.0 mmol). The reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was acidified with 10% aqueous citric acid (2 mL), and the resulting yellow precipitate recovered via filtration, washed with water and tetrahydrofuran, and dried under vacuum to yield 114.6 mg of the title compound, which was carried forward without purification. LCMS (ESI): M+H=280.1.

reactant | methyl 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinate | 0.6444 mmol, 189 mg | NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=C(C(=O)OC)C1)C | C17H15N3O2
reactant | tetrahydrofuran | 49 mmol, 4.0 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 2.0 mmol, 2.0 mL | [OH-].[Li+]
reactant | citric acid | 2 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 5-(3-aminoisoquinolin-7-yl)-6-methylnicotinic acid | 114.6 mg | NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=C(C(=O)O)C1)C | C16H13N3O2
